US07220856B2
Preparation of 7-Chloro-4-[4-(4-trifluoromethylphenylaminocarbonyl)piperazin-1-yl]quinoline
At room temp. under nitrogen, to a solution of 7-chloro-4-(piperazin-1-yl)quinoline (200 mg, 0.81 mmol) and diisopropyl(ethyl)amine (209 mg, 1.62 mmol) in acetonitrile (5 mL) is added 4-trifluoromethylphenyl isocyanate (197 mg, 0.97 mmol). The reaction mixture is stirred at room temp. for 2 h, concentrated, and the residue is purified by flash chromatography with CH2Cl2-MeOH to afford the title product.

reactant | 7-chloro-4-(piperazin-1-yl)quinoline | 0.81 mmol, 200 mg | ClC1=CC=C2C(=CC=NC2=C1)N1CCNCC1 | C13H14ClN3
reactant | diisopropyl(ethyl)amine | 1.62 mmol, 209 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-trifluoromethylphenyl isocyanate | 0.97 mmol, 197 mg | FC(C1=CC=C(C=C1)N=C=O)(F)F | C8H4F3NO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 7-Chloro-4-[4-(4-trifluoromethylphenylaminocarbonyl)piperazin-1-yl]quinoline | ClC1=CC=C2C(=CC=NC2=C1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)C(F)(F)F | C21H18ClF3N4O
